US04559354
The starting compound is obtained in the following manner: (13a) A solution of 10.5 g of 2-[2-(2,3-epoxypropoxy)-phenyl]-indole and 10.2 g of 5-(2-benzylaminoethoxy)-salicylamide in 300 ml of isopropanol is reacted analogously to Example 4(c) and yields crude 1-[N-benzyl-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]]-3-[2-(indol-2-yl)-phenoxy]-2-propanol in the form of an orange resin that is further processed in that form.

reactant | 2-[2-(2,3-epoxypropoxy)-phenyl]-indole | 10.5 g | O1C(COC2=C(C=CC=C2)C=2NC3=CC=CC=C3C2)C1 | C17H15NO2
reactant | 5-(2-benzylaminoethoxy)-salicylamide | 10.2 g | C(C1=CC=CC=C1)NCCOC1=CC=C(C(C(=O)N)=C1)O | C16H18N2O3
solvent | isopropanol | 300 ml | C(C)(C)O | C3H8O
product | 1-[N-benzyl-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]]-3-[2-(indol-2-yl)-phenoxy]-2-propanol | C(C1=CC=CC=C1)N(CC(COC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1)O)CCOC1=CC(=C(C=C1)O)C(N)=O | C33H33N3O5
